US08053574B2
Step 1: 3-Bromo-5-ethyl-pyridine
3,5-dibromo-pyridine (0.4 g, 1.688 mmol), potassium carbonate (0.7 g, 5.064 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride (0.138 g, 0.169 mmol), silver(I) oxide (0.902 g, 4.22 mmol), ethyl boronic acid (0.150 g, 2.03 mmol) and THF (8 ml) are mixed together, purged with argon and heated to reflux overnight. After cooling to room temperature the reaction mixture is filtered through Celite® (filter agent) washing with DCM. The DCM is reduced in vacuo and the residue is purified by flash chromatography by loading onto a 20 g silica column eluting with DCM to afford the title compound, [MH+ 185.91 and 187.91].

reactant | 3,5-dibromo-pyridine | 1.688 mmol, 0.4 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | potassium carbonate | 5.064 mmol, 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl boronic acid | 2.03 mmol, 0.150 g | C(C)B(O)O | C2H7BO2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.169 mmol, 0.138 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | silver(I) oxide | 4.22 mmol, 0.902 g | [Ag-]=O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 3-Bromo-5-ethyl-pyridine | BrC=1C=NC=C(C1)CC | C7H8BrN
